US04518774
To a solution of ethyl 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyrate (syn isomer, 7.3 g) in ethanol (35 ml) was added 1N aqueous solution of sodium hydroxide (35 ml) and the mixture was stirred for 2 hours at 40°-45° C. and then evaporated under reduced pressure. To the residue was added a saturated aqueous solution of sodium chloride (50 ml) and the mixture was washed with diethyl ether (60 ml). The aqueous layer was separated and then diethyl ether (100 ml) was added thereto. The mixture was adjusted to pH 1 with 10% hydrochloric acid, and the diethyl ether layer was separated and then the remaining aqueous layer was further extracted with diethyl ether (50 ml×2). The diethyl ether layer and extracts were combined together, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then the solvent was distilled off. To the resultant oil was added benzene, and the benzene was distilled off. The resultant solid was washed in ligroin, collected by filtration and then dried to give 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyric acid (syn isomer, 5.4 g), mp 80°-81° C. (Yield: 83.3%).

reactant | ethyl 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyrate | 7.3 g | CON=C(C(=O)OCC)C1(CCl)OCCO1 | C9H14ClNO5
reactant | sodium hydroxide | 35 ml | [OH-].[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-methoxyimino-3,3-ethylenedioxy-4-chlorobutyric acid | 5.4 g, Yield: 83.3% | CON=C(C(=O)O)C1(CCl)OCCO1 | C7H10ClNO5
